US08669234B2
To a solution of 6-(2-methoxycarbonylamino-3-methyl-butyryl)-5-oxa-6-aza-spiro[3.4]octane-7-carboxylic acid ethyl ester (1.31 g, 3.83 mmol) in ethanol (10 mL) was added a solution of lithium hydroxide (1M in water, 7.6 mL, 7.6 mmol). The reaction was stirred at room temperature for 30 minutes. The reaction was partially concentrated and the resulting aqueous solution was washed with ethyl acetate. The ethyl acetate layer was discarded and the aqueous layer was acidified using concentrated HCl. The acidic aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4) and concentrated to yield crude 6-(2-methoxycarbonylamino-3-methyl-butyryl)-5-oxa-6-aza-spiro[3.4]octane-7-carboxylic acid, which was used without further purification.

reactant | 6-(2-methoxycarbonylamino-3-methyl-butyryl)-5-oxa-6-aza-spiro[3.4]octane-7-carboxylic acid ethyl ester | 3.83 mmol, 1.31 g | C(C)OC(=O)C1N(OC2(CCC2)C1)C(C(C(C)C)NC(=O)OC)=O | C16H26N2O6
reactant | lithium hydroxide | 7.6 mmol, 1M, 7.6 mL | [OH-].[Li+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-(2-methoxycarbonylamino-3-methyl-butyryl)-5-oxa-6-aza-spiro[3.4]octane-7-carboxylic acid | COC(=O)NC(C(=O)N1OC2(CCC2)CC1C(=O)O)C(C)C | C14H22N2O6
